US08536160B2
4-Piperidyloxyamine dihydrochloride (III-a)
1-tert-Butoxycarbonyl-4-piperidyloxyamine (120 mg) was dissolved in a 5M HCl solution in EtOAc (3 mL). After 1 h the solvent was removed under reduced pressure to give the title compound III-a (100 mg, 96%). 1H-NMR (300 MHz, DMSO-d6, ppm from TMS): δ 10.95 (3H, bb), 8.96 (2H, bb), 4.33 (1H, m), 3.13 (2H, m), 3.00 (2H, m), 2.09 (2H, m), 1.85 (2H, m).

reactant | 1-tert-Butoxycarbonyl-4-piperidyloxyamine | 120 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)ON | C10H20N2O3
reactant | HCl | 5M | Cl | ClH
solvent | EtOAc | 3 mL | CCOC(=O)C | C4H8O2
product | 4-Piperidyloxyamine dihydrochloride | Cl.Cl.N1CCC(CC1)ON | InChI=1S/C5H12N2O.2ClH/c6-8-5-1-3-7-4-2-5;;/h5,7H,1-4,6H2;2*1H
